US04954499
920 g of 3-(4-chloro-3-nitrobenzoyl)-butyric acid are added to a mixture of 6.8 1 of acetic acid and 499 g of hydrazine hydrate, and the mixture is stirred for 2 hours at 95°-100°. It is poured into ice water, and filtration gives 6-(4-chloro-3-nitrophenyl)-5-methyl-2,3,4,5-tetrahydropyridazin-3-one, m.p. 186°-188°.

reactant | 3-(4-chloro-3-nitrobenzoyl)-butyric acid | 920 g | ClC1=C(C=C(C(=O)C(CC(=O)O)C)C=C1)[N+](=O)[O-] | C11H10ClNO5
reactant | hydrazine hydrate | 499 g | O.NN
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(4-chloro-3-nitrophenyl)-5-methyl-2,3,4,5-tetrahydropyridazin-3-one | ClC1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C11H10ClN3O3
